US07592358B2
16.1g. 2-{4-[3-bromo-5-(4-chlorophenyl)pyridin-2-ylethynyl]phenoxy}ethanol
The product was prepared analogously to Example 7.1e starting from 3-bromo-5-(4-chlorophenyl)-2-ethynylpyridine and 2-(4-iodophenoxy)ethanol. Yield: 0.18 g (28% of theoretical); C21H15BrClNO2 (M=428.706); calc.: molpeak (M+H)+: 428/430/432 (BrCl); found: molpeak (M+H)+: 428/430/432 (BrCl).

reactant | 3-bromo-5-(4-chlorophenyl)-2-ethynylpyridine | BrC=1C(=NC=C(C1)C1=CC=C(C=C1)Cl)C#C | C13H7BrClN
reactant | 2-(4-iodophenoxy)ethanol | IC1=CC=C(OCCO)C=C1 | C8H9IO2
reactant | BrCl | BrCl | BrCl
product | 2-{4-[3-bromo-5-(4-chlorophenyl)pyridin-2-ylethynyl]phenoxy}ethanol | BrC=1C(=NC=C(C1)C1=CC=C(C=C1)Cl)C#CC1=CC=C(OCCO)C=C1 | C21H15BrClNO2
